US06433009B1
1-(4-Chloro-2,6-diisopropyl-phenyl)-3-(2-fluoro-5-(2-methyl-[1,3]-dioxolan-2-yl)-benzenesulfonyl]-urea
3-(2-Fluoro-5-(2-methyl-[1,3]dioxolan-2-yl)-benzenesulfonamide; 4-Chloro-2,6-diisopropyl-phenyl isocyanate. mp: 168-170° C.

reactant | 2-Fluoro-5-(2-methyl-[1,3]dioxolan-2-yl)-benzenesulfonamide | FC1=C(C=C(C=C1)C1(OCCO1)C)S(=O)(=O)N | C10H12FNO4S
reactant | 4-Chloro-2,6-diisopropyl-phenyl isocyanate | ClC1=CC(=C(C(=C1)C(C)C)N=C=O)C(C)C | C13H16ClNO
product | 1-(4-Chloro-2,6-diisopropyl-phenyl)-3-(2-fluoro-5-(2-methyl-[1,3]-dioxolan-2-yl)-benzenesulfonyl]-urea | ClC1=CC(=C(C(=C1)C(C)C)NC(=O)NS(=O)(=O)C1=C(C=CC(=C1)C1(OCCO1)C)F)C(C)C | C23H28ClFN2O5S
